US09102674B2
Step B: tert-Butyl 7-((3-chlorobenzyl)oxy)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate.
To a slurry of 7-((3-chlorobenzyl)oxy)-3,4-dihydroquinolin-2(1H)-one (30 g, 0.09 mol) in DCM (153 mL) was added BOC anhydride (22.40 mL, 0.10 mol), triethylamine (12.35 mL, 0.09 mol) and 4-dimethylaminopyridine (0.11 g, 0.90 mmol) at ambient temperature. The resulting slurry was stirred at ambient temperature for 4 h. The reaction was quenched into water (150 mL). The organic layer was separated and washed with 1N aq. HCl (100 mL) and sat. (aq.) ammonium chloride (100 mL) and dried over Na2SO4 and concentrated under reduced pressure to a yellow oil that solidified upon standing. The solid was triturated in hexanes (200 mL) to yield the desired product (28.0 g, 81%), which was carried on without further purification to the next step. 1H NMR (400 MHz, CDCl3) δ 7.41 (s, 1H), 7.36-7.28 (m, 3H), 7.08 (d, J=8.3 Hz, 1H), 6.65 (dd, J=8.3, 2.3 Hz, 1H), 6.59 (d, J=2.3 Hz, 1H), 5.02 (s, 2H), 2.95-2.81 (m, 2H), 2.65 (dd, J=8.4, 6.1 Hz, 2H), 1.60 (s, 9H). [M+H]=388.0.

reactant | 7-((3-chlorobenzyl)oxy)-3,4-dihydroquinolin-2(1H)-one | 0.09 mol, 30 g | ClC=1C=C(COC2=CC=C3CCC(NC3=C2)=O)C=CC1 | C16H14ClNO2
reactant | BOC anhydride | 0.10 mol, 22.40 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 0.09 mol, 12.35 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 153 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.90 mmol, 0.11 g | CN(C1=CC=NC=C1)C | C7H10N2
product | tert-Butyl 7-((3-chlorobenzyl)oxy)-2-oxo-3,4-dihydroquinoline-1(2H)-carboxylate | 28.0 g, 81% | ClC=1C=C(COC2=CC=C3CCC(N(C3=C2)C(=O)OC(C)(C)C)=O)C=CC1 | C21H22ClNO4
